US04946963
A mixture consisting of 1.37 g (0.0100 mol) of benzohydroxamic acid, 10 ml of pyridine, and 100 ml of methylene chloride was prepared in a 250 ml round-bottom flask. The mixture was cooled in an ice bath and 2.00 g (0.101 mol) of diethylmalonyl chloride was added dropwise over a 15 minute period. The reaction mixture was stirred for one hour at room temperature after which time all the benzohydroxamic acid had dissolved. The solution was evaporated under reduced pressure, and to the residue was added 100 ml of cold water. The insoluble viscous oil was rubbed with a glass rod to effect solidification. The solid was filtered and dried to give 1.89 g (75.9%) of crude 2-benzoyl-4,4-diethylisoxazolidine-3,5-dione: mp 76°-79° C. Recrystallization of 1.72 g of crude isoxazolidine-3,5-dione from 20 ml of absolute ethanol gave 1.56 g of pure 2-benzoyl-4,4-diethylisoxazolidine-3,5-dione: mp 87°-88° C. (lit 87°-88° C.) G. Zinner and R. Moll, Arch. Pharm., 299, (6), 562-8(1966), CA 65 10575f; IR (Nujol) 1817 (s, C=O), 1762 (s, C=O), 1714 (s, C=O) and 694 (s, aromatic C--H bend) cm-1 : NMR (acetone-d6 ) δ7.46 (m, 5, aromatic C--H), 1.87 (q, 4, CH2), 1.00 (t, 6, CH3).

reactant | benzohydroxamic acid | 0.0100 mol, 1.37 g | C(C1=CC=CC=C1)(=O)NO | C7H7NO2
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | diethylmalonyl chloride | 0.101 mol, 2.00 g | C(C)C(C(=O)Cl)(C(=O)Cl)CC | C7H10Cl2O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-benzoyl-4,4-diethylisoxazolidine-3,5-dione | 1.89 g, 75.9% | C(C1=CC=CC=C1)(=O)N1OC(C(C1=O)(CC)CC)=O | C14H15NO4
